US08729116B2
Amitraz
METI mitecides: fenazaquin, fenpyroximate, pyridaben, pyrimidifen, tebufenpyrad and tolfenpyrad.

reactant | fenazaquin | CC(C)(C)C=1C=CC(=CC1)CCOC2=C3C=CC=CC3=NC=N2 | C20H22N2O
reactant | fenpyroximate | CC1=NN(C(=C1/C=N\OCC2=CC=C(C=C2)C(=O)OC(C)(C)C)OC3=CC=CC=C3)C | C24H27N3O4
reactant | pyridaben | CC(C)(C)C=1C=CC(=CC1)CSC2=C(C(=O)N(N=C2)C(C)(C)C)Cl | C19H25ClN2OS
reactant | pyrimidifen | CCC1=C(C(=NC=N1)NCCOC2=C(C(=C(C=C2)CCOCC)C)C)Cl | C20H28ClN3O2
reactant | tebufenpyrad | CCC=1C(=C(N(N1)C)C(=O)NCC=2C=CC(=CC2)C(C)(C)C)Cl | C18H24ClN3O
reactant | tolfenpyrad | CCC=1C(=C(N(N1)C)C(=O)NCC=2C=CC(=CC2)OC=3C=CC(=CC3)C)Cl | C21H22ClN3O2
product | Amitraz | CC1=CC(=C(C=C1)/N=C/N(/C=N/C2=C(C=C(C=C2)C)C)C)C | C19H23N3
